US07678801B2
202b) 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(2-phenylethyl)benzamide
To the solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(2-phenylethyl)benzamide (200 mg, 0.369 mmol) in dichloromethane (7 mL) was added m-CPBA (86.1 mg, 0.553 mmol). The reaction mixture was stirred at room temperature for 10 minutes. Then the reaction mixture was applied to flash chromatography to afford the titled compound 157 mg (76%).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(2-phenylethyl)benzamide | 0.369 mmol, 200 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC1=CC=CC=C1)C=CC2C)SC)=O | C30H24F2N4O2S
reactant | m-CPBA | 0.553 mmol, 86.1 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(2-phenylethyl)benzamide | 157 mg, 76% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC1=CC=CC=C1)C=CC2C)S(=O)C)=O | C30H24F2N4O3S
